US06897224B2
4-(5-Fluoro-2-hydroxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)-quinolin-5-ylamino)pentan-2-ol
100 mg (0.20 mmol) of 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)quinolin-5-ylamino)pentan-2-ol in 2.0 ml of dichloromethane is mixed at room temperature with 4.0 ml (4.0 mmol) of a 1 M boron tribromide solution. After 20 hours at room temperature, the reaction is brought to a halt by adding 20 ml of methanol. The reaction mixture is allowed to stir for 30 minutes at room temperature, and then the solvent is removed in a vacuum. After chromatography on silica gel with hexane-ethyl acetate (0-100%), 79 mg (80% of theory) of the product is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)quinolin-5-ylamino)pentan-2-ol | 0.20 mmol, 100 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C(F)(F)F)(O)C(F)(F)F)(C)C)OC | C24H23F7N2O2
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
reactant | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 4-(5-Fluoro-2-hydroxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)-quinolin-5-ylamino)pentan-2-ol | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C(F)(F)F)(O)C(F)(F)F)(C)C)O | C23H21F7N2O2
